US04588749
N-(3-(4-Methylphenyl)propyl)-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine
The title compound was prepared in the manner described in Example 3, replacing 2-(3-chlorophenyl)-2-hydroxy ethanamine by 2-(3-trifluoromethylphenyl)-2-hydroxyethanamine, and 4-methylphenylacetone by 4-(4-methylphenyl)butan-2-one. The chromatographed material was recrystallised from hexane to give the title compound mp 52°-55° as a 44:56 ratio of diastereoisomers.

reactant | 2-(3-trifluoromethylphenyl)-2-hydroxyethanamine | FC(C=1C=C(C=CC1)C(CN)O)(F)F | C9H10F3NO
reactant | 4-methylphenylacetone | CC1=CC=C(C=C1)CC(C)=O | C10H12O
reactant | 4-(4-methylphenyl)butan-2-one | CC1=CC=C(C=C1)CCC(C)=O | C11H14O
product | N-(3-(4-Methylphenyl)propyl)-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | CC1=CC=C(C=C1)CCCNCC(C1=CC(=CC=C1)C(F)(F)F)O | C19H22F3NO
